US06521643B1
To a suspension of N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea (529 mg) in N,N-dimethylformamide (10 ml) were added a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) and iodoethane (0.8 ml), and the mixture was stirred at 70° C. for 4 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration and purified by column chromatography (silica gel, triethylamine:methanol:dichloromethane=1:2:100). The combined fractions were evaporated under reduced pressure, and the residue was dissolved in ethyl acetate (5 ml). To the solution was added a solution of hydrogen chloride in 1,4-dioxane (4N, 1.25 ml). The precipitate was collected by filtration and dried under reduced pressure to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea dihydrochloride (0.69 g).

reactant | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea | 529 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=S)N | C11H12N4S2
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 0.8 ml | ICC | C2H5I
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea dihydrochloride | 0.69 g | Cl.Cl.CC=1N=C(SC1C1=NC=CC(=C1)C)NC(SCC)=N | InChI=1S/C13H16N4S2.2ClH/c1-4-18-12(14)17-13-16-9(3)11(19-13)10-7-8(2)5-6-15-10;;/h5-7H,4H2,1-3H3,(H2,14,16,17);2*1H
